US04195033
A mixture of 3-bromo-1-cyano-2,2-dimethyl-5,5,5-trichloropentane (0.5 g.) and a solution of sodium (0.2 g.) in ethanol (10 ml.) is refluxed for 2 hours after which the ethanol is removed by evaporation under reduced pressure. The residue is partitioned between chloroform (20 ml.) and water (20 ml.) and the chloroform layer separated, washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure yields 1-cyano 2-(2,2,-dichlorovinyl)-3,3-dimethylcyclopropane, identified by infra-red and nuclear magnetic resonance spectroscopy.

reactant | 3-bromo-1-cyano-2,2-dimethyl-5,5,5-trichloropentane | 0.5 g | BrC(C(CC#N)(C)C)CC(Cl)(Cl)Cl | C8H11BrCl3N
reactant | sodium | 0.2 g | [Na] | Na
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-cyano 2-(2,2,-dichlorovinyl)-3,3-dimethylcyclopropane | C(#N)C1C(C1(C)C)C=C(Cl)Cl | C8H9Cl2N
